US07452892B2
C. Preparation of 7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirred solution of triphosgene (2.86 g, 9.66 mmol) in THF (10 mL) at room temperature under argon was added a suspension of 4-(4-chlorophenyl)-6-hydrazinylpyrimidine (825 mg, 3.22 mmol) in THF (10 mL). The reaction mixture was stirred overnight. Analysis by HPLC/MS indicated that no starting material remained. Solvent was removed under reduced pressure and water (50 mL) was added. After stirring for 30 min, the solid precipitate was collected and further washed with water (3×10 mL), then methanol (3×5 mL). The title compound (793 mg) was obtained as an off-white solid. HPLC/MS: retention time=2.74 min, [M+H]30 =247.

reactant | triphosgene | 9.66 mmol, 2.86 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(4-chlorophenyl)-6-hydrazinylpyrimidine | 3.22 mmol, 825 mg | ClC1=CC=C(C=C1)C1=NC=NC(=C1)NN | C10H9ClN4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 793 mg | ClC1=CC=C(C=C1)C1=CC=2N(C=N1)C(NN2)=O | C11H7ClN4O
